US06313297B1
According to GP, 2.22 mmol (=0.36 g=0.34 ml) of phenylpiperazine and 2.22 mmol (=0.26 g=0.29 ml) of α-methylstyrene are reacted with 5 mol % (=0.111 mmol=70 μl) of n-BuLi solution. Column-chromatographic separation with ethyl acetate/n-hexane (3:1) gives the product 1-phenyl-4-(2-phenylpropyl)piperazine as a light-yellow solid.

reactant | phenylpiperazine | 2.22 mmol, 0.34 ml, 0.36 g | C=1C=CC(=CC1)N2CCNCC2 | C10H14N2
reactant | α-methylstyrene | 2.22 mmol, 0.29 ml, 0.26 g | CC(=C)C1=CC=CC=C1 | C9H10
reactant | n-BuLi | 0.111 mmol, 70 μl | [Li]CCCC
product | 1-phenyl-4-(2-phenylpropyl)piperazine | C1(=CC=CC=C1)N1CCN(CC1)CC(C)C1=CC=CC=C1 | C19H24N2
